US05280027
p-[N-(2-Methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-(2-hydroxy-2-phenylethyl)benzamide (0.105 g) was dissolved in DMF (3 ml) and acetic anhydride (34 mg) and pyridine (37 mg) were added in turn. The mixture was stirred at 20° C. for 24 hours. The mixture was evaporated and the residue was triturated with water (5 ml). The solid was filtered off, washed with water and dried in air to give N-(2-acetoxy-2-phenylethyl)-p-[N-(2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzamide (0.095 g; containing 1 equivalent of water), m.p. 203°-205° C.

reactant | p-[N-(2-Methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-(2-hydroxy-2-phenylethyl)benzamide | 0.105 g | CC1=NC2=CC=C(C=C2C(N1)=O)CN(CC#C)C1=CC=C(C(=O)NCC(C2=CC=CC=C2)O)C=C1 | C28H26N4O3
reactant | acetic anhydride | 34 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 37 mg | N1=CC=CC=C1 | C5H5N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(2-acetoxy-2-phenylethyl)-p-[N-(2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzamide | 0.095 g, 1 equivalent | C(C)(=O)OC(CNC(C1=CC=C(C=C1)N(CC#C)CC=1C=C2C(NC(=NC2=CC1)C)=O)=O)C1=CC=CC=C1 | C30H28N4O4
